US04017533
10.8 g of diaminomaleonitrile and 10.0 g of acetyl cyanide were added successively to a solution of 1.9 g of p-toluenesulfonic acid in 100 ml of dry diethyl ether. The resulting yellow powder was collected by filtration and dried. The crude product thus obtained was dissolved in 600 ml of acetone and any insoluble insoluble solids were removed by filtration. 900 ml of water was added to the filtrate to obtain α-cyanoethylidenediaminomaleonitrile in 41% yield.

reactant | diaminomaleonitrile | 10.8 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | acetyl cyanide | 10.0 g | C(C)(=O)C#N | C3H3NO
reactant | p-toluenesulfonic acid | 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | α-cyanoethylidenediaminomaleonitrile | 41% yield | C(#N)C(C)=N/C(/C#N)=C(/C#N)\N | C7H5N5
